US08049006B2
tert-butyl 4-[(1R)-1-({[(6S)-6-(5-chloro-2-methoxybenzyl)-3,7-dioxo-4-(2,4,6-trimethoxybenzyl)-1,4-diazepan-1-yl]carbonyl} amino)propyl]-2-nitrobenzoate (compound 329)
To a solution of di-tert-butyldicarbonate (7.2 g) and dimethylaminopyridine (3.8 g) in acetonitrile (9 ml) cooled at −10° C., a solution of tert-butyl 4-((1R)-1-aminopropyl)-2-nitrobenzoate (8.8 g) in acetonitrile (1 ml) was added at −10° C., and the mixture was stirred for 15 minutes. Nitrogen gas was blown into the reaction solution over 30 minutes, then (6S)-6-(5-chloro-2-methoxybenzyl)-1-(2,4,6-trimethoxybenzyl)-1,4-diazepan-2,5-dione (11.7 g) was added to the mixture. Next, 1N solution of potassium tert-butoxide in a tetrahydrofuran (0.43 ml) was dropwisely added to the mixture. After the end of the addition, acetic acid (3 ml) was added to the reaction solution, and the mixture was concentrated in vacuo. Ethyl acetate was added to the obtained residue, and the resultant mixture was washed with water. Then the organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off in vacuo. The concentrated residue was purified by silica gel chromatography to obtain the title compound (15.6 g) as an oily substance.

reactant | di-tert-butyldicarbonate | 7.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 3.8 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | tert-butyl 4-((1R)-1-aminopropyl)-2-nitrobenzoate | 8.8 g | N[C@H](CC)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C14H20N2O4
reactant | (6S)-6-(5-chloro-2-methoxybenzyl)-1-(2,4,6-trimethoxybenzyl)-1,4-diazepan-2,5-dione | 11.7 g | ClC=1C=CC(=C(C[C@@H]2C(NCC(N(C2)CC2=C(C=C(C=C2OC)OC)OC)=O)=O)C1)OC | C23H27ClN2O6
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | acetonitrile | 9 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 0.43 ml | O1CCCC1 | C4H8O
product | tert-butyl 4-[(1R)-1-({[(6S)-6-(5-chloro-2-methoxybenzyl)-3,7-dioxo-4-(2,4,6-trimethoxybenzyl)-1,4-diazepan-1-yl]carbonyl} amino)propyl]-2-nitrobenzoate | 15.6 g | ClC=1C=CC(=C(C[C@H]2CN(C(CN(C2=O)C(=O)N[C@H](CC)C2=CC(=C(C(=O)OC(C)(C)C)C=C2)[N+](=O)[O-])=O)CC2=C(C=C(C=C2OC)OC)OC)C1)OC | C38H45ClN4O11
